US04803150
A-3. Preparation of (1-(4-Carboxyphenyl)-4-(4-dimethylaminobenzylidene)-3-methyl-2-pyrazolin-5-one (Dye 1/A)
A slurry composed of 1-(4-carboxyphenyl)-3-methyl-2-pyrazolin-5-one (21.8 gm, 0.10 mol), 4-dimethylaminobenzaldehyde (14.9 gm, 0.10 mol) and EtOH (250 ml) was heated at reflux for two hours. The reaction mixture was cooled to RT resulting in a crude orange product which was isolated by filtration. The product was then washed with ether and dried. The product was purified further by making a slurry of the solid in EtOH (700 ml) at refluxing temperature and filtering the slurry to recover the dye. The treatment was repeated. The mp of the product was above 310° C. The NMR and IR spectra were consistent with the structure assigned. The C,H, and N elemental analyses were in agreement with those calculated for the empirical formula.

reactant | 1-(4-carboxyphenyl)-3-methyl-2-pyrazolin-5-one | 0.10 mol, 21.8 gm | C(=O)(O)C1=CC=C(C=C1)N1N=C(CC1=O)C | C11H10N2O3
reactant | 4-dimethylaminobenzaldehyde | 0.10 mol, 14.9 gm | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | EtOH | 250 ml | CCO | C2H6O
product | 1-(4-Carboxyphenyl)-4-(4-dimethylaminobenzylidene)-3-methyl-2-pyrazolin-5-one | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C1=O)=CC1=CC=C(C=C1)N(C)C)C | C20H19N3O3
